US06348474B1
2-Amino-6-bromo-3-nitropyridine
To a suspension of 2,6-dibromo-3-nitropyridine (5.00 g) in ethanol (10 ml) was added an ammonia/ethanol solution (6.8 M, 15 ml) at room temperature, and the mixture was placed in a closed reaction vessel and stirred at room temperature for 19 hr. To the reaction mixture was added water (25 ml), and the precipitate was collected by filtration. The precipitate was washed with ethanol, suspended in ethanol (55 ml), heated and cooled. The precipitate was collected by filtration to give the objective compound (3.19 g) as a yellow powder.

reactant | 2,6-dibromo-3-nitropyridine | 5.00 g | BrC1=NC(=CC=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | ammonia ethanol | 6.8 M, 15 ml | N.C(C)O
reactant | water | 25 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Amino-6-bromo-3-nitropyridine | 3.19 g | NC1=NC(=CC=C1[N+](=O)[O-])Br | C5H4BrN3O2
